US08067448B2
2-Chloro-4-((1R,2S)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)benzonitrile
To a solution of N′-((2R,3S)-2-(3-chloro-4-cyanophenylamino)-3-hydroxybutanoyl)-4-cyanobenzohydrazide (2 g, 5.03 mmol) in anhydrous THF (300 mL) at room temperature was added 2-tert-butylamino-2-diethylamino-1,3-dimethyl perhydro-1,3,2-diazaphosphorine on polystyrene (2.2 mmol base/g) (6.86 g) followed by p-TSCl (959 mg, 5.03 mmol) and the mixture was stirred for 1 h. The mixture was filtered and the residue washed with acetone (200 mL) followed by MeOH (200 mL). The filtrate was then concentrated and subjected to flash column chromatography [EtOAc-Hexanes (3:2)] to give two fractions. The second-eluted material was the desired 2-chloro-3-ethyl-4-((1R,2S)-2-hydroxy-1-(5-phenyl-1,3,4-oxadiazol-2-yl)propylamino)benzonitrile (231 mg, 12%). 1H NMR (500 MHz, CDCl3, δ in ppm) 8.2 (d, J=8 Hz, 2H), 7.99 (d, J=8 Hz, 2H), 7.57 (d, J=8 Hz, 1H), 7.14 (s, 1H), 6.97 (d, J=8 Hz, 1H), 6.61 (d, J=8 Hz, 1H), 5.17-5.13 (m, 1H), 4.64-4.54 (m, 2H), 1.40 (d, J=6 Hz, 3H).

reactant | N′-((2R,3S)-2-(3-chloro-4-cyanophenylamino)-3-hydroxybutanoyl)-4-cyanobenzohydrazide | 5.03 mmol, 2 g | ClC=1C=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)[C@H](C)O | C19H16ClN5O3
reactant | 2-tert-butylamino-2-diethylamino-1,3-dimethyl perhydro-1,3,2-diazaphosphorine | C(C)(C)(C)NP1(N(CCCN1C)C)N(CC)CC | C13H33N4P
reactant | 2-chloro-3-ethyl-4-((1R,2S)-2-hydroxy-1-(5-phenyl-1,3,4-oxadiazol-2-yl)propylamino)benzonitrile | 231 mg | ClC1=C(C#N)C=CC(=C1CC)N[C@H]([C@H](C)O)C=1OC(=NN1)C1=CC=CC=C1 | C20H19ClN4O2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-((1R,2S)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)benzonitrile | ClC1=C(C#N)C=CC(=C1)N[C@H]([C@H](C)O)C=1OC(=NN1)C1=CC=C(C=C1)C#N | C19H14ClN5O2
